US04504490
2-(3-Acetylureido)-5-phenoxysulfonylnitrobenzene (formula V)
1 ml of concentrated sulfuric acid is added, with stirring, to 50.5 g of 5-phenoxysulfonyl-2-ureidonitrobenzene in 250 ml of acetic anhydride. A clear solution is produced, followed rapidly by precipitation. The mixture is stirred for a further two hours, and the solid is filtered off with suction and washed consecutively with glacial acetic acid and diisopropyl ether, melting point 198° C., decomposition.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-phenoxysulfonyl-2-ureidonitrobenzene | 50.5 g | O(C1=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)[N+](=O)[O-])NC(=O)N | C13H11N3O6S
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(3-Acetylureido)-5-phenoxysulfonylnitrobenzene | C(C)(=O)NC(NC1=C(C=C(C=C1)S(=O)(=O)OC1=CC=CC=C1)[N+](=O)[O-])=O | C15H13N3O7S
